US08703797B2
A mixture of 2,5-dimethylaniline (7.70 g, 63.54 mmol) and ethyl 4-methyl-3-oxopentanoate (10.00 g, 1.0 eq) were refluxed at 160° C. overnight. After the reaction mixture was cooled to room temperature, it was triturated with hexane. The resulting precipitate was filtered and dried under high vacuum to yield the desired N-(2,5-dimethylphenyl)-4-methyl-3-oxopentanamide. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.18 (d, J=7.03 Hz, 6 H) 2.30 (d, J=7.62 Hz, 6 H) 2.66-2.85 (m, 1 H) 3.64 (s, 2 H) 6.87 (d, J=8.50 Hz, 1 H) 7.06 (d, J=7.62 Hz, 1 H) 7.77 (s, 1 H) 9.13 (br. s., 1 H).

reactant | 2,5-dimethylaniline | 63.54 mmol, 7.70 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | ethyl 4-methyl-3-oxopentanoate | 10.00 g, 1.0 eq | CC(C(CC(=O)OCC)=O)C | C8H14O3
product | N-(2,5-dimethylphenyl)-4-methyl-3-oxopentanamide | CC1=C(C=C(C=C1)C)NC(CC(C(C)C)=O)=O | C14H19NO2
